Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Bactrim / Nafcillin
 
Attending: ___.
 
Chief Complaint:
Hypotension, oliguria 
 
Major Surgical or Invasive Procedure:
Incision and Drainage Left Lower Extremity ___, 
___
Upper Endoscopy 

 
History of Present Illness:
___ with h/o CAD s/p 5v CABG, DM2, and HTN, admitted with L leg 
erythema, fever, and now with ___. Pt initially awoke on ___ 
with fevers to 102.5 and shaking chills, along with multiple 
episodes of nausea and nonbilious, nonbloody emesis. 
Significantly decreased po intake over the next ___ days as 
well. On ___, pt subsequently developed L foot swelling, 
erythema, and pain, along with a large blister on the medial 
aspect of her L foot. Over the course of three days, she took 3 
tabs of ibuprofen tid, unsure of dose. She denied orthostatic 
sx. Pt presented to the ED on ___ morning ___-- at that 
time, was febrile to 102.1 with rigors (was given ibuprofen and 
tylenol). She was started on zosyn/vancomycin for cellulitis and 
admitted to medicine. Creat at that time was 1.6. Since then, 
BCx have grown out coag + staph in ___ bottles.  
.  
After admission, pt progressively became more hypotensive, with 
diminishing urine output over the day yesterday. Was given 6L 
0.9NS on the floor, with BPs remaining in mid-80s systolic. She 
also developed new onset RUE weakness; MRI was negative for 
acute stroke. She was transferred to MICU last night, where she 
has remained febrile and hypotensive, and was started on 
dopamine. Pt currently being followed by podiatry and vascular 
surgery, who feel that this is acute charcot foot with overlying 
soft tissue infection.  
.  
Currently, pt c/o nausea and continued dry heaves. Denies 
dyspnea, orthostatic sx, or chest pain. Says she has been told 
about mild CKD in the past, but is unsure about her baseline 
creatinine. She has never been told about proteinuria in the 
past, and denies regular NSAID use (aside from acute use in past 
few days).  

 
Past Medical History:
PAST MEDICAL HISTORY:  ___ has got a number of medical 
problems stemming from hypertension and diabetes.  She has had 
diabetes for a long period of time and her most recent 
hemoglobin A1c level was notably elevated at 14%.  She has a 
history of coronary artery disease and had a CABG in ___.  She 
reportedly has an ejection fraction of 50 to 55%.  She has a 
history of hyperlipidemia and hypertension.  With respect to her 
bypass, she has had stents placed as well.  Her CABG was 
complicated by a sternal wound infection.  Her most recent echo 
was obtained on ___.  This reveals ejection fraction of 
greater than or equal to 55% with no evidence of endocarditis.  
She has never had a colonoscopy and she had her last mammogram 
___ years ago. She also has anemia and her most recent 
hematocrit was 30%.  She has an elevated platelet level greater 
than 500.
* CAD s/p 5v CABG in ___, with subsequent 4v CABG 6 months 
later  
* DM2, diagnosed in ___, complicated by retinopathy and 
neuropathy, poorly controlled  
* HTN  
* hyperlipidemia  
* anemia  

PAST SURGICAL HISTORY:  In ___ and ___, she had her coronary
artery bypass.  She has had three C-sections.

OB/GYN HISTORY:  She denies any history of pelvic infections. 
She denies any history of abnormal Pap smears, and her last was
obtained in ___.  She denies any complications of cesarean
section.
 
Social History:
___
Family History:
She reports her mother developed lung cancer, she was a smoker.  
She had a grandmother and an aunt who had breast cancer, 
grandmother was sick in her ___ and her aunt was in her ___.  
There is no other family history of cancer.
 
Physical Exam:
Vitals: T: 98.0 BP: 102/58 P: 69 R: 20 O2: 98% 4L NC  
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, EOMI, MMM, oropharynx clear  
Neck: supple, JVP not elevated, no LAD  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV: Regular rate and rhythm, normal S1 + S2. ___ holosystolic 
murmur loudest on left sternal border. no rubs, gallops  
Abdomen: Normoactive bowel sounds, obese, soft, non-tender, 
non-distended, no rebound tenderness or guarding, no 
organomegaly  
Ext: Warm, well perfused, 2+ DP on R, LLE wrapped in ACE 
bandage. Ankle ROM intact bilaterally. 1+ pitting edema 
bilateral lower extremities to knees with severe left foot 
edema.  
Skin: Warm 2cm x 2cm erythematous and purplish discoloration 
across the anterior aspect of the lower leg.  
Neuro: alert and oriented x 3, strength ___ in all extremities  

 
Pertinent Results:
LABS ON ADMISSION:
___ 12:05PM BLOOD WBC-10.5# RBC-4.46 Hgb-12.4 Hct-37.2 
MCV-84 MCH-27.9 MCHC-33.4 RDW-13.7 Plt ___
___ 12:05PM BLOOD Neuts-90.4* Lymphs-4.6* Monos-3.9 Eos-0.6 
Baso-0.6
___ 12:05PM BLOOD ___ PTT-24.9 ___
___ 12:05PM BLOOD ESR-114*
___ 12:05PM BLOOD Glucose-534* UreaN-39* Creat-1.6* Na-130* 
K-4.6 Cl-89* HCO3-28 AnGap-18
___ 03:30PM BLOOD ALT-25 AST-28 AlkPhos-120* TotBili-0.7
___ 07:16AM BLOOD Calcium-7.8* Phos-4.0# Mg-1.8
___ 03:30PM BLOOD Cortsol-28.3*
___ 12:13PM BLOOD Glucose-404* Lactate-2.6* K-4.4
___ 12:20PM BLOOD freeCa-0.96*

LABS ON TRANSFER FROM THE ICU:
___ 03:36AM BLOOD WBC-10.2 RBC-3.43* Hgb-9.6* Hct-28.2* 
MCV-82 MCH-27.9 MCHC-34.0 RDW-14.2 Plt ___
___ 03:36AM BLOOD Plt ___
___ 01:44PM BLOOD Glucose-117* UreaN-52* Creat-3.9* Na-130* 
K-4.1 Cl-100 HCO3-17* AnGap-17
___ 01:44PM BLOOD Calcium-6.9*
___ 12:20PM BLOOD Type-ART pH-7.35
___ 12:20PM BLOOD Lactate-0.8
___ 12:20PM BLOOD freeCa-0.96*

LABS ON SECOND TRANSFER FROM ICU:

LABS ON DISCHARGE:

MICROBIOLOGY:
___ URINE URINE CULTURE-FINAL INPATIENT 
___ MRSA SCREEN MRSA SCREEN-PENDING INPATIENT 
___ BLOOD CULTURE Blood Culture, Routine-PENDING 
INPATIENT 
___ BLOOD CULTURE Blood Culture, Routine-FINAL {STAPH 
AUREUS COAG +}; Aerobic Bottle Gram Stain-FINAL; Anaerobic 
Bottle Gram Stain-FINAL INPATIENT 
___ BLOOD CULTURE Blood Culture, Routine-FINAL {STAPH 
AUREUS COAG +}; Aerobic Bottle Gram Stain-FINAL; Anaerobic 
Bottle Gram Stain-FINAL EMERGENCY WARD 

IMAGING:
 
___ L foot x-ray:  
1. Findings concerning for possible osteomyelitis superimposed 
on an evolving Charcot's joint, although no radiographic 
evidence of ulcer. Extensive osseous destruction and lucencies 
involving the medial and mid cuneiforms, second and third 
metatarsal bases, and navicular bone. While findings could in 
part relate to an evolving Charcot's joint, new since ___, 
they are in conjunction with overlying soft tissue gas and 
swelling, making superimposed osteomyelitis of concern. 
Recommend clinical correlation for soft tissue  
defect/ulcer and further evaluation with nuclear medicine study 
or MRI.  
2. Gas noted in anterior ankle. Given known leg cellulitis, 
proximal extent not evaluated.  

___ MRI/MRA Head: No signs of infarct.  

___ CXR:  
Comparison is made to the prior study from ___. The heart 
is enlarged. There is atelectasis at the left lung base with a 
small left pleural effusion. This is status post median 
sternotomy. Right lung is relatively clear.  

___ Renal ultrasound: No evidence of hydronephrosis.  

___ TTE:  
The left atrium is mildly dilated. Left ventricular wall 
thickness, cavity size and regional/global systolic function are 
normal (LVEF >55%). Right ventricular chamber size and free wall 
motion are normal. The diameters of aorta at the sinus, 
ascending and arch levels are normal. The aortic valve leaflets 
(3) appear structurally normal with good leaflet excursion and 
no aortic regurgitation. The mitral valve leaflets are mildly 
thickened. Mild (1+) mitral regurgitation is seen. There is mild 
pulmonary artery systolic hypertension. There is no pericardial 
effusion.  
IMPRESSION: Mild tricuspid regurgitation. Normal biventricular 
cavity sizes with preserved global and regional biventricular 
systolic function. Mild pulmonary artery systolic hypertension.  

Compared with the prior report (images unavailable for review) 
of ___, the findings are similar.  

 
Brief Hospital Course:
___ year old F with hx of CAD, DM, HTN presented with left lower 
extremity pain and erythma secondary to acute charcot foot with 
overlying cellulitis. On floor patient developed hypotension and 
oliguria despite 6 L NS IVF due to MSSA sepsis.  She improved 
and was sent out to the floor where she continued treatment for 
MSSA bacteremia and L Charcot foot, cellulitis and osteomyelitis 
until she developed a GI bleed from a Dieulafoy lesion.  After 
endoscopy with endoclips and cautery, she was stabilized and 
sent back to the floor for continued management.  After 
returning to the floor her course was then complicated by 
another debridement and then renal failure due to AIN from her 
nafcillin.  
.
# Left Charcot foot with osteomyelitis and overlying cellulitis: 
Patient presented with left lower extremity pain and erythema.  
She was seen by podiatry and vascular surgery who felt this was 
consistent with an acute Charcot foot.  She then became 
hypotensive and oliguric requiring MICU admission where she was 
found to be septic with MSSA. Her foot was the presumed source 
and a CT of her leg showed several gas pockets within the foot 
and ankle. Patient underwent I&D on ___ with swab and tissue 
cultures showing MSSA.  Infectious disease was consulted and 
recommended at least a 6 week course of nafcillin, however after 
her final debridement cultures were growing enterobacter and 
klebsiella, and she developed AIN her antibiotic regimen was 
changed to ciprofloxacin and vancomycin.  She will need 6 weeks 
of vancomycin from the date of her last debridement on ___, 
and ___ weeks of ciprofloxacin from ___, this course will be 
outlined during her ID appointment in ___.  She will need 
weekly labs that include: cbc, diff, bun, cr, lfts, esr, 
crp,vancomycin trough and  have ALL THE LABS faxed to the 
infectious disease R.Ns. at ___.  
.
# Dieulafoy lesion: She had a hematocrit drop while on the floor 
and was found to have melena. She was transferred to the ICU for 
GI bleed and required 12 units of blood in less than 48 hours. 
She had a few EGDs on ___ and on ___ showing clot in stomach 
from a Dieulafoy lesion. The gastroenterologists were unable to 
intervene on first two endoscopies but able to cauterize and 
place clips on the third endoscopy which was performed with 
intubation in the OR for direct visualization. Her hematocrit 
then stabilized, and she was started on a PPI, she had no 
further evidence of GI bleeding during her stay, and GI felt 
that it was safe for her to be started on anticoagulation.  
.
# MSSA bacteremia: The source of her bacteremia was likely her 
left foot given same speciation and sensitivites. There were no 
signs of endocarditis on transthoracic echocardiogram but the 
study was deemed suboptimal.  The patient declined a 
transesophageal echocardiogram but this was felt to not be 
necessary as she will already require a 6 week course of IV 
antibotic therapy.  Due to her new allergy to nafcillin as a 
result of the AIN, her antibiotics were changed to 
vancomycin/ciprofloxacin as above for the bacteremia.   
.
# Left upper extremity deep venous thrombus: She was found to 
have a DVT surrounding her PICC in her left arm.  She was 
initially started on a heparin drip as a bridge to coumadin, the 
left arm PICC was removed and PICC was placed in her right arm.  
She will complete a three month course of coumadin, if she 
becomes subtherapeutic on coumadin there is no indication for 
bridging with heparin, so she can be continued on coumadin until 
her INR is back in the therapeutic range.
.
# Acute renal failure: Patient developed oliguria very soon 
after admission, and urine sediment showed muddy brown casts 
consistent with ATN.  The etiology of her ATN was likely 
hypotension leading to hypoperfusion while she was septic from 
MSSA. Her creatinine steadily improved and returned to near her 
baseline.  Then around ___ her creatinine started to increase 
again, it peaked at 2.0 and renal was consulted.  Examination of 
the urine showed white cells and cellular casts, renal felt that 
this was consistent with AIN, most likely from Nafcillin.  They 
also felt that there was a component of congestive heart failure 
that was also contributing.  Her antibiotics were changed to 
vancomycin and she was started on more aggressive diuresis of 
lasix 80mg IV twice a day.  Given the large amount of excess 
fluid, she will currently be continued on the same dose of IV 
lasix.  If her creatinine increases again, or diuresis starts to 
slow, she can then be transitioned back to an oral dose, she was 
admitted on 40mg po daily.  Creatinine at the time of discharge 
was 1.2, her renal function will need to be continually 
monitored as her vancomycin dosing may change as her renal 
function changes.  We held her valsartan in the setting of her 
renal failure and also while she was getting IV lasix, if she 
needs better blood pressure control can restart valsartan 80mg 
daily if her creatinine is back to her baseline of 1.0.
.  
# RUE weakness: She acutely developed difficulty raising her 
right arm on ___ but had a negative head MRI after code stroke 
was called. Neurology felt this was a brachial plexus 
neuropathy, likely pressure related from non-invasive 
measurements done in the ED. MRI of C-spine showed severe canal 
and foraminal narrowing at C5-6 and C6-7 with cord deformity but 
no signs of abscess. Spine was consulted who recommended a CT 
scan of her C-spine for better evaluation but felt this was 
non-critical.  She should follow-up with the spine clinic after 
discharge and her rehabilitation stay.
.  
# Hypocalcemia with hyperphosphatemia: In the setting of acute 
renal failure, she had a low ionized calcium and 
hyperphosphatemia. Sevelamer was started with meals to help 
correct this imbalance until her renal function improved.  Once 
her renal function improved, the sevelamer was discontinued.
.
# CAD: She had no complaints of chest pain or SOB throughout her 
stay.  She was continued on ASA, plavix and statin initially 
until she developed a GI bleed.  At that time her 
anticoagulation was stopped, and not restarted until a week 
after final EGD.  She was resumed on aspirin and statin but her 
plavix continued to be held given her need for warfarin.  
.
# DM: She was continued on ISS with Lantus.  She needed 
continual uptitration of her lantus dose for improved glycemic 
control.  Her humalog sliding scale from the hospital was 
included in her paperwork.  
.
# Acute on chronic diastolic congestive heart failure: Her EF 
>55% on transthoracic echocardiogram. She was initially 
euvolemic but developed volume overload from IV fluids and blood 
products. She continues to be on aggressive diuresis with lasix 
given her total volume overload, and fact that her renal 
function improved with diuresis she was discharged on 80mg IV 
BID, and will likely need up to a week more of diuresis with IV 
lasix, we would recommend continuing as long as her creatinine 
remains stable.  We held her valsartan in the setting of her 
renal failure and also while she was getting IV lasix, if she 
needs better blood pressure control can restart valsartan 80mg 
daily if her creatinine is back to her baseline of 1.0.  
.
# Dyslipidemia: She was continued on atorvastatin. 
.
# Thyroid nodule: Incidental finding on C-spine MR, elevated TSH 
with normal T4 consistent with sick euthyroid, she will need 
further outpatient follow up of the thyroid nodule after rehab.  
 
  
 
Medications on Admission:
amlodipine 10, atorvastatin 80, plavix 75 mg, furosemide 40 mg 
daily, gabapentin 300 mg po tid, imdur 30 mg po daily, 
metoprolol 100 mg po bid, valsartan 80 mg daily, ASA 325, Fe 
sulfate, MVI, sertraline 100mg, ativan 0.5mg QID:PRN
 
Discharge Medications:
 

1. Miconazole Nitrate 2 % Powder Sig: One (1) Appl Topical TID 
(3 times a day) as needed for rash.  
2. Metoprolol Tartrate 50 mg Tablet Sig: One (1) Tablet PO BID 
(2 times a day).  
3. Atorvastatin 80 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
4. Amlodipine 5 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily).  

5. Lorazepam 0.5 mg Tablet Sig: One (1) Tablet PO twice a day as 
needed for severe anxiety.  
6. Isosorbide Mononitrate 30 mg Tablet Sustained Release 24 hr 
Sig: One (1) Tablet Sustained Release 24 hr PO DAILY (Daily).  
7. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
8. Senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed for constipation.  
9. Aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
10. Sucralfate 1 gram Tablet Sig: One (1) Tablet PO QID (4 times 
a day).  
11. Sertraline 50 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
12. Insulin Glargine 100 unit/mL Solution Sig: Twenty (20) units 
Subcutaneous at bedtime.  
13. Hydromorphone 2 mg Tablet Sig: ___ mg PO Q6H (every 6 hours) 
as needed for pain: hold for sedation, RR<12.  
14. Gabapentin 300 mg Capsule Sig: One (1) Capsule PO every 
eight (8) hours.  
15. Pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q24H (every 24 hours).  
16. Ciprofloxacin 500 mg Tablet Sig: One (1) Tablet PO Q12H 
(every 12 hours).  
17. Warfarin 5 mg Tablet Sig: One (1) Tablet PO Once Daily at 4 
___.  
18. Heparin, Porcine (PF) 10 unit/mL Syringe Sig: Two (2) ML 
Intravenous PRN (as needed) as needed for line flush.  
19. Ondansetron 8 mg Tablet, Rapid Dissolve Sig: One (1) Tablet, 
Rapid Dissolve PO every eight (8) hours as needed for nausea.  
20. Vancomycin in D5W 1 gram/200 mL Piggyback Sig: One (1)  
Intravenous Q 24H (Every 24 Hours).  
21. Sodium Chloride 0.9%  Flush 10 mL IV PRN line flush 
PICC, non-heparin dependent: Flush with 10 mL Normal Saline 
daily and PRN per lumen. 
22. Furosemide 80 mg IV BID 
Hold for SBP<100
 
23. Insulin Lispro 100 unit/mL Solution Sig: Sliding Scale  As 
directed  Subcutaneous ACHS: Please follow attached sliding 
scale.  
24. Multivitamin     Tablet Sig: One (1) Tablet PO once a day.  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary:
MSSA bacteremia
Left Charcot foot
Left lower leg cellulitis
Acute renal failure
Dieulafoy Lesion causing an upper GI bleed 

Secondary:
Diabetes mellitus 
CAD s/p CABG

 
Discharge Condition:
Mental Status: Confused - sometimes, usually oriented x 3, but 
has difficulty with attention
Level of Consciousness: Alert and interactive usually, will at 
times be very sleepy but very easily arousable.  
Activity Status: Bedbound, currently requires assistance to get 
out into the chair 

 
Discharge Instructions:
You were admitted to the hospital for pain in your left foot. 
Your blood pressure dropped, and you were found to have a 
bacteria in your blood stream likely from your infected foot. 
You had a deep infection in your left foot and lower leg that 
required clean out in the OR.  You improved on antibiotics.  
During your stay you also had a bleeding artery in your stomach, 
which required a stay in the ICU and an upper endoscopy done by 
gastroenterology with clipping of the artery.  Also, during your 
stay you were found to have an allergic reaction in your kidneys 
to one of the antibioitics, and your kidney function improved 
with removal of the antibiotics.  You will need close follow up 
with podiatry after you leave for monitoring of the healing of 
your left leg.  Also, since your hospital stay was very 
prolonged and complicated you will need a lot of rehabilitation 
to get your strength back.  
.
We made multiple changes to your medication regimen during your 
stay:
1. STARTED Coumadin 5mg daily for a left arm DVT
2. STARTED Sucralfate four times per day 
3. STARTED Dilaudid ___ every 6 hours as needed for pain 
4. STARTED Pantoprazole 40mg daily 
5. STARTED Ciprofloxacin 500mg twice a day for ___ weeks from 
___, ID will address stopping this medication during your 
appt
6. STARTED Vancomycin 1g every 24 hours for 6 weeks from ___
7. DECREASED Metoprolol to 50mg twice a day 
8. STOPPED Valsartan due to your kidney failure
9. STOPPED Plavix when you had bleeding from your stomach, 
follow up with your PCP and cardiologist about restarting this 
medication 
10. STOPPED Lasix 40mg daily by mouth 
11. STARTED Lasix 80mg IV twice a day 
12. DECREASED home ativan dose due to somnolence to 0.5mg twice 
a day as need for anxiety 
13. ADDED dilaudid ___ every ___ hours as needed for pain 
Please continue to take all other medications as previously 
prescribed
 
Followup Instructions:
___